US06255301B1
(i) Ethyl 2,3-dimethoxyphenylacetate
To a solution of 2,3-dimethoxyphenylacetic acid (2.52 g, 12.8 mmol) in EtOH (abs.; 20 mL) was added H2SO4 (30 μL), and the solution was refluxed for 20 hours. The resultant solution was concentrated, dissolved in ether, and the ether solution was washed with NaHCO3/aq (2×30 mL) and brine, dried (MgSO4) and concentrated to yield the sub-title compound.

reactant | 2,3-dimethoxyphenylacetic acid | 12.8 mmol, 2.52 g | COC1=C(C=CC=C1OC)CC(=O)O | C10H12O4
reactant | H2SO4 | 30 μL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 20 mL | CCO | C2H6O
product | Ethyl 2,3-dimethoxyphenylacetate | COC1=C(C=CC=C1OC)CC(=O)OCC | C12H16O4
